US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-methyl-benzamide
The title compound (22 mg, 56%) was prepared analogously to example 7 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 4-methylbenzoyl chloride. MS: 387.4 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-methyl-benzamide | 22 mg, 56% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC=C(C=C2)C)=O)C=C1)OCC | C22H27ClN2O2
